US08232300B2
(6) 4-(6,7,8,9-Tetrahydro-5H-5-benzocycloheptenyl)butyric acid
A solution of ethyl 4-(6,7,8,9-tetrahydro-5H-5-benzocycloheptenyl)butyrate (0.534 g) in methanol (10 ml) was added with 2 N aqueous sodium hydroxide (2 ml), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was added with 2 N aqueous hydrochloric acid and thereby made acidic, and the mixture was extracted with chloroform. The organic layer was washed successively with water and saturated brine, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure to quantitatively obtain the title compound.

reactant | ethyl 4-(6,7,8,9-tetrahydro-5H-5-benzocycloheptenyl)butyrate | 0.534 g | C1=CC=CC2=C1CCCCC2CCCC(=O)OCC | C17H24O2
reactant | sodium hydroxide | 2 N, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 4-(6,7,8,9-Tetrahydro-5H-5-benzocycloheptenyl)butyric acid | C1=CC=CC2=C1CCCCC2CCCC(=O)O | C15H20O2
